Power for Slaves
*SPICE Netlist generated by Advanced Sim server on 27-May-18 8:11:22 PM

*Schematic Netlist:
D1 NetD1_1 Net7805_1 1N4007
R1 NetD2_1 VCC 1k

.SAVE 0 Net7805_1 NetD1_1 NetD2_1 VCC @D1[id] @R1[i] @D1[p] @R1[p]

*PLOT TRAN -1 1 A=Net7805_1
*PLOT OP -1 1 A=Net7805_1

*Selected Circuit Analyses:
.TRAN 2E-8 5E-6 0 2E-8
.OP

*Models and Subcircuits:
.MODEL 1N4007 D(IS=2.55E-9 RS=0.042 N=1.75 TT=5.76E-6 CJO=1.85E-11 VJ=0.75
+ M=0.333 BV=1000 IBV=9.86E-5 )

.END
